US09326973B2
Cap-6: 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylic acid
1 N NaOH (0.994 mL, 0.994 mmol) was added to a solution of ethyl 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylate (73.6 mg, 0.331 mmol) in THF (1 mL) and MeOH (1 mL) and the mixture was stirred at rt for 3-4 h. The reaction mixture was acidified and extracted with EtOAC, washed with brine and dried (MgSO4). Evaporation of the solvent afforded Cap-6 as a beige solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 3.74 (s, 2H), 2.30-2.20 (m, J=13.3 Hz, 2H), 2.13-1.85 (m, 4H), 1.71-1.60 (m, 2H).

reactant | NaOH | 0.994 mmol, 1 N, 0.994 mL | [OH-].[Na+]
reactant | ethyl 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylate | 0.331 mmol, 73.6 mg | FC1(CCC(CC1)(C(=O)OCC)CO)F | C10H16F2O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylic acid | FC1(CCC(CC1)(C(=O)O)CO)F | C8H12F2O3
